US09290451B2
b) 5-Cyclopropyl-6-methyl-pyridine-2-carbonitrile
5-Bromo-6-methyl-pyridine-2-carbonitrile (0.5 g, 2.5 mmol), cyclopropylboronic acid (CAN:411235-57-9, 0.36 g, 4 mmol), Pd2(dba)3 (CAN:411235-57-9, 0.1 g, 0.2 mmol), xantphos (CAN:161265-03-8, 0.15 g, 0.26 mmol) and Cs2CO3 (1.1 g, 3 mmol) were suspended in 1,4-dioxane (30 mL) under a nitrogen atmosphere. The mixture was stirred for 12 h at 110° C., filtered, concentrated under reduced pressure and purified by column chromatography (silica gel, 5 g, eluting with 10% ethyl acetate in petroleum ether) to give the title compound (0.3 g, 75%) as yellow solid; MS (D): m/e=159.2 [M+H]+.

reactant | 5-Bromo-6-methyl-pyridine-2-carbonitrile | 2.5 mmol, 0.5 g | BrC=1C=CC(=NC1C)C#N | C7H5BrN2
reactant | cyclopropylboronic acid | 4 mmol, 0.36 g | C1(CC1)B(O)O | C3H7BO2
reactant | xantphos | 0.26 mmol, 0.15 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 3 mmol, 1.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.2 mmol, 0.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Cyclopropyl-6-methyl-pyridine-2-carbonitrile | 0.3 g, 75% | C1(CC1)C=1C=CC(=NC1C)C#N | C10H10N2
